US07354932B2
To a solution of N-tert-butoxycarbonyl-3-piperidin-2-yl-propan-1-ol (0.372 g, 1.53 mmol) in CH2Cl2 (7.5 mL), at room temperature, was added sequentially 3Å molecular sieves (0.814 g), N-methylmorpholine N-oxide (0.278 g, 2.37 mmol) and tetrapropylammonium perruthenate (56 mg, 0.16 mmol). After 90 minutes, the mixture was filtered through a short column of silica gel and the cake was washed with ethyl acetate. The solvent was removed from the filtrate under reduced pressure to provide 0.32 g (86%) of N-tert-butoxycarbonyl-3-piperidin-2-yl-propionaldehyde as a green oil which was used without further purification.

reactant | N-tert-butoxycarbonyl-3-piperidin-2-yl-propan-1-ol | 1.53 mmol, 0.372 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CCCO | C13H25NO3
reactant | N-methylmorpholine N-oxide | 2.37 mmol, 0.278 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 7.5 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.16 mmol, 56 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | N-tert-butoxycarbonyl-3-piperidin-2-yl-propionaldehyde | 0.32 g, 86% | C(C)(C)(C)OC(=O)N1C(CCCC1)CCC=O | C13H23NO3
